US06608203B2
1-(4-Iodo-phenyl)-6-methoxy-2-phenyl-1,2,3,4-tetrahydroisoquinoline
The title compound was prepared by analogy to Preparation 65 except that 4-iodo-N-[2-(3-methoxy-phenyl)-ethyl]-N-phenyl-benzamide was used instead of 4-methoxy-N-[2-(3-methoxy-phenyl)-ethyl]-N-phenyl-benzamide, and the final residue was subjected to flash chromatography using a gradient from neat CH2Cl2 to CH2Cl2:MeOH 60:1.

reactant | 4-iodo-N-[2-(3-methoxy-phenyl)-ethyl]-N-phenyl-benzamide | IC1=CC=C(C(=O)N(C2=CC=CC=C2)CCC2=CC(=CC=C2)OC)C=C1 | C22H20INO2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 1-(4-Iodo-phenyl)-6-methoxy-2-phenyl-1,2,3,4-tetrahydroisoquinoline | IC1=CC=C(C=C1)C1N(CCC2=CC(=CC=C12)OC)C1=CC=CC=C1 | C22H20INO
